*-- pdngen: spice deck generated for chip 'chiplet3' PDN
*-- die chiplet3:  W/H: 0.005/0.002


.subckt chiplet3
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_6_1
+nd_pad_port_6_3
+nd_pad_port_7_0
+nd_pad_port_7_2
+nd_pad_port_8_1
+nd_pad_port_8_3
+nd_pad_port_9_0
+nd_pad_port_9_2
*-- p/g port #: 20/20
+nd_1_0_6800_1000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_399_1000 nd_1_0_1200_1000 0.016324
rd_1_2_0_0_1 nd_1_0_1200_1000 nd_1_0_2000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_2000_1000 nd_1_0_2800_1000 0.016324
rd_1_2_0_0_3 nd_1_0_2800_1000 nd_1_0_3600_1000 0.016324
rd_1_2_0_0_4 nd_1_0_3600_1000 nd_1_0_4400_1000 0.016324
rd_1_2_0_0_5 nd_1_0_4400_1000 nd_1_0_5200_1000 0.016324
rd_1_2_0_0_6 nd_1_0_5200_1000 nd_1_0_6000_1000 0.016324
rd_1_2_0_0_7 nd_1_0_6000_1000 nd_1_0_6800_1000 0.016324
rd_1_2_0_0_8 nd_1_0_6800_1000 nd_1_0_7600_1000 0.016324
rd_1_2_0_0_9 nd_1_0_7600_1000 nd_1_0_8400_1000 0.016324
rd_1_2_0_0_10 nd_1_0_8400_1000 nd_1_0_9200_1000 0.016324
rd_1_2_0_1_0 nd_1_0_399_3000 nd_1_0_1200_3000 0.016324
rd_1_2_0_1_1 nd_1_0_1200_3000 nd_1_0_2000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_2000_3000 nd_1_0_2800_3000 0.016324
rd_1_2_0_1_3 nd_1_0_2800_3000 nd_1_0_3600_3000 0.016324
rd_1_2_0_1_4 nd_1_0_3600_3000 nd_1_0_4400_3000 0.016324
rd_1_2_0_1_5 nd_1_0_4400_3000 nd_1_0_5200_3000 0.016324
rd_1_2_0_1_6 nd_1_0_5200_3000 nd_1_0_6000_3000 0.016324
rd_1_2_0_1_7 nd_1_0_6000_3000 nd_1_0_6800_3000 0.016324
rd_1_2_0_1_8 nd_1_0_6800_3000 nd_1_0_7600_3000 0.016324
rd_1_2_0_1_9 nd_1_0_7600_3000 nd_1_0_8400_3000 0.016324
rd_1_2_0_1_10 nd_1_0_8400_3000 nd_1_0_9200_3000 0.016324
rd_1_2_0_2_0 nd_1_0_399_5000 nd_1_0_1200_5000 0.016324
rd_1_2_0_2_1 nd_1_0_1200_5000 nd_1_0_2000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_2000_5000 nd_1_0_2800_5000 0.016324
rd_1_2_0_2_3 nd_1_0_2800_5000 nd_1_0_3600_5000 0.016324
rd_1_2_0_2_4 nd_1_0_3600_5000 nd_1_0_4400_5000 0.016324
rd_1_2_0_2_5 nd_1_0_4400_5000 nd_1_0_5200_5000 0.016324
rd_1_2_0_2_6 nd_1_0_5200_5000 nd_1_0_6000_5000 0.016324
rd_1_2_0_2_7 nd_1_0_6000_5000 nd_1_0_6800_5000 0.016324
rd_1_2_0_2_8 nd_1_0_6800_5000 nd_1_0_7600_5000 0.016324
rd_1_2_0_2_9 nd_1_0_7600_5000 nd_1_0_8400_5000 0.016324
rd_1_2_0_2_10 nd_1_0_8400_5000 nd_1_0_9200_5000 0.016324
rd_1_2_0_3_0 nd_1_0_399_7000 nd_1_0_1200_7000 0.016324
rd_1_2_0_3_1 nd_1_0_1200_7000 nd_1_0_2000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_2000_7000 nd_1_0_2800_7000 0.016324
rd_1_2_0_3_3 nd_1_0_2800_7000 nd_1_0_3600_7000 0.016324
rd_1_2_0_3_4 nd_1_0_3600_7000 nd_1_0_4400_7000 0.016324
rd_1_2_0_3_5 nd_1_0_4400_7000 nd_1_0_5200_7000 0.016324
rd_1_2_0_3_6 nd_1_0_5200_7000 nd_1_0_6000_7000 0.016324
rd_1_2_0_3_7 nd_1_0_6000_7000 nd_1_0_6800_7000 0.016324
rd_1_2_0_3_8 nd_1_0_6800_7000 nd_1_0_7600_7000 0.016324
rd_1_2_0_3_9 nd_1_0_7600_7000 nd_1_0_8400_7000 0.016324
rd_1_2_0_3_10 nd_1_0_8400_7000 nd_1_0_9200_7000 0.016324
rd_1_2_0_4_0 nd_1_0_399_9000 nd_1_0_1200_9000 0.016324
rd_1_2_0_4_1 nd_1_0_1200_9000 nd_1_0_2000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_2000_9000 nd_1_0_2800_9000 0.016324
rd_1_2_0_4_3 nd_1_0_2800_9000 nd_1_0_3600_9000 0.016324
rd_1_2_0_4_4 nd_1_0_3600_9000 nd_1_0_4400_9000 0.016324
rd_1_2_0_4_5 nd_1_0_4400_9000 nd_1_0_5200_9000 0.016324
rd_1_2_0_4_6 nd_1_0_5200_9000 nd_1_0_6000_9000 0.016324
rd_1_2_0_4_7 nd_1_0_6000_9000 nd_1_0_6800_9000 0.016324
rd_1_2_0_4_8 nd_1_0_6800_9000 nd_1_0_7600_9000 0.016324
rd_1_2_0_4_9 nd_1_0_7600_9000 nd_1_0_8400_9000 0.016324
rd_1_2_0_4_10 nd_1_0_8400_9000 nd_1_0_9200_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_399_1000 nd_2_0_399_3000 0.016324
rd_2_1_0_0_1 nd_2_0_399_3000 nd_2_0_399_5000 0.016324
rd_2_1_0_0_2 nd_2_0_399_5000 nd_2_0_399_7000 0.016324
rd_2_1_0_0_3 nd_2_0_399_7000 nd_2_0_399_9000 0.016324
rd_2_1_0_1_0 nd_2_0_1200_1000 nd_2_0_1200_3000 0.016324
rd_2_1_0_1_1 nd_2_0_1200_3000 nd_2_0_1200_5000 0.016324
rd_2_1_0_1_2 nd_2_0_1200_5000 nd_2_0_1200_7000 0.016324
rd_2_1_0_1_3 nd_2_0_1200_7000 nd_2_0_1200_9000 0.016324
rd_2_1_0_2_0 nd_2_0_2000_1000 nd_2_0_2000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_2000_3000 nd_2_0_2000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_2000_5000 nd_2_0_2000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_2000_7000 nd_2_0_2000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_2800_1000 nd_2_0_2800_3000 0.016324
rd_2_1_0_3_1 nd_2_0_2800_3000 nd_2_0_2800_5000 0.016324
rd_2_1_0_3_2 nd_2_0_2800_5000 nd_2_0_2800_7000 0.016324
rd_2_1_0_3_3 nd_2_0_2800_7000 nd_2_0_2800_9000 0.016324
rd_2_1_0_4_0 nd_2_0_3600_1000 nd_2_0_3600_3000 0.016324
rd_2_1_0_4_1 nd_2_0_3600_3000 nd_2_0_3600_5000 0.016324
rd_2_1_0_4_2 nd_2_0_3600_5000 nd_2_0_3600_7000 0.016324
rd_2_1_0_4_3 nd_2_0_3600_7000 nd_2_0_3600_9000 0.016324
rd_2_1_0_5_0 nd_2_0_4400_1000 nd_2_0_4400_3000 0.016324
rd_2_1_0_5_1 nd_2_0_4400_3000 nd_2_0_4400_5000 0.016324
rd_2_1_0_5_2 nd_2_0_4400_5000 nd_2_0_4400_7000 0.016324
rd_2_1_0_5_3 nd_2_0_4400_7000 nd_2_0_4400_9000 0.016324
rd_2_1_0_6_0 nd_2_0_5200_1000 nd_2_0_5200_3000 0.016324
rd_2_1_0_6_1 nd_2_0_5200_3000 nd_2_0_5200_5000 0.016324
rd_2_1_0_6_2 nd_2_0_5200_5000 nd_2_0_5200_7000 0.016324
rd_2_1_0_6_3 nd_2_0_5200_7000 nd_2_0_5200_9000 0.016324
rd_2_1_0_7_0 nd_2_0_6000_1000 nd_2_0_6000_3000 0.016324
rd_2_1_0_7_1 nd_2_0_6000_3000 nd_2_0_6000_5000 0.016324
rd_2_1_0_7_2 nd_2_0_6000_5000 nd_2_0_6000_7000 0.016324
rd_2_1_0_7_3 nd_2_0_6000_7000 nd_2_0_6000_9000 0.016324
rd_2_1_0_8_0 nd_2_0_6800_1000 nd_2_0_6800_3000 0.016324
rd_2_1_0_8_1 nd_2_0_6800_3000 nd_2_0_6800_5000 0.016324
rd_2_1_0_8_2 nd_2_0_6800_5000 nd_2_0_6800_7000 0.016324
rd_2_1_0_8_3 nd_2_0_6800_7000 nd_2_0_6800_9000 0.016324
rd_2_1_0_9_0 nd_2_0_7600_1000 nd_2_0_7600_3000 0.016324
rd_2_1_0_9_1 nd_2_0_7600_3000 nd_2_0_7600_5000 0.016324
rd_2_1_0_9_2 nd_2_0_7600_5000 nd_2_0_7600_7000 0.016324
rd_2_1_0_9_3 nd_2_0_7600_7000 nd_2_0_7600_9000 0.016324
rd_2_1_0_10_0 nd_2_0_8400_1000 nd_2_0_8400_3000 0.016324
rd_2_1_0_10_1 nd_2_0_8400_3000 nd_2_0_8400_5000 0.016324
rd_2_1_0_10_2 nd_2_0_8400_5000 nd_2_0_8400_7000 0.016324
rd_2_1_0_10_3 nd_2_0_8400_7000 nd_2_0_8400_9000 0.016324
rd_2_1_0_11_0 nd_2_0_9200_1000 nd_2_0_9200_3000 0.016324
rd_2_1_0_11_1 nd_2_0_9200_3000 nd_2_0_9200_5000 0.016324
rd_2_1_0_11_2 nd_2_0_9200_5000 nd_2_0_9200_7000 0.016324
rd_2_1_0_11_3 nd_2_0_9200_7000 nd_2_0_9200_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_399_1000 nd_2_0_399_1000 0.005
rvd_1_0_0_1 nd_1_0_1200_1000 nd_2_0_1200_1000 0.005
rvd_1_0_0_2 nd_1_0_2000_1000 nd_2_0_2000_1000 0.005
rvd_1_0_0_3 nd_1_0_2800_1000 nd_2_0_2800_1000 0.005
rvd_1_0_0_4 nd_1_0_3600_1000 nd_2_0_3600_1000 0.005
rvd_1_0_0_5 nd_1_0_4400_1000 nd_2_0_4400_1000 0.005
rvd_1_0_0_6 nd_1_0_5200_1000 nd_2_0_5200_1000 0.005
rvd_1_0_0_7 nd_1_0_6000_1000 nd_2_0_6000_1000 0.005
rvd_1_0_0_8 nd_1_0_6800_1000 nd_2_0_6800_1000 0.005
rvd_1_0_0_9 nd_1_0_7600_1000 nd_2_0_7600_1000 0.005
rvd_1_0_0_10 nd_1_0_8400_1000 nd_2_0_8400_1000 0.005
rvd_1_0_0_11 nd_1_0_9200_1000 nd_2_0_9200_1000 0.005
rvd_1_0_1_0 nd_1_0_399_3000 nd_2_0_399_3000 0.005
rvd_1_0_1_1 nd_1_0_1200_3000 nd_2_0_1200_3000 0.005
rvd_1_0_1_2 nd_1_0_2000_3000 nd_2_0_2000_3000 0.005
rvd_1_0_1_3 nd_1_0_2800_3000 nd_2_0_2800_3000 0.005
rvd_1_0_1_4 nd_1_0_3600_3000 nd_2_0_3600_3000 0.005
rvd_1_0_1_5 nd_1_0_4400_3000 nd_2_0_4400_3000 0.005
rvd_1_0_1_6 nd_1_0_5200_3000 nd_2_0_5200_3000 0.005
rvd_1_0_1_7 nd_1_0_6000_3000 nd_2_0_6000_3000 0.005
rvd_1_0_1_8 nd_1_0_6800_3000 nd_2_0_6800_3000 0.005
rvd_1_0_1_9 nd_1_0_7600_3000 nd_2_0_7600_3000 0.005
rvd_1_0_1_10 nd_1_0_8400_3000 nd_2_0_8400_3000 0.005
rvd_1_0_1_11 nd_1_0_9200_3000 nd_2_0_9200_3000 0.005
rvd_1_0_2_0 nd_1_0_399_5000 nd_2_0_399_5000 0.005
rvd_1_0_2_1 nd_1_0_1200_5000 nd_2_0_1200_5000 0.005
rvd_1_0_2_2 nd_1_0_2000_5000 nd_2_0_2000_5000 0.005
rvd_1_0_2_3 nd_1_0_2800_5000 nd_2_0_2800_5000 0.005
rvd_1_0_2_4 nd_1_0_3600_5000 nd_2_0_3600_5000 0.005
rvd_1_0_2_5 nd_1_0_4400_5000 nd_2_0_4400_5000 0.005
rvd_1_0_2_6 nd_1_0_5200_5000 nd_2_0_5200_5000 0.005
rvd_1_0_2_7 nd_1_0_6000_5000 nd_2_0_6000_5000 0.005
rvd_1_0_2_8 nd_1_0_6800_5000 nd_2_0_6800_5000 0.005
rvd_1_0_2_9 nd_1_0_7600_5000 nd_2_0_7600_5000 0.005
rvd_1_0_2_10 nd_1_0_8400_5000 nd_2_0_8400_5000 0.005
rvd_1_0_2_11 nd_1_0_9200_5000 nd_2_0_9200_5000 0.005
rvd_1_0_3_0 nd_1_0_399_7000 nd_2_0_399_7000 0.005
rvd_1_0_3_1 nd_1_0_1200_7000 nd_2_0_1200_7000 0.005
rvd_1_0_3_2 nd_1_0_2000_7000 nd_2_0_2000_7000 0.005
rvd_1_0_3_3 nd_1_0_2800_7000 nd_2_0_2800_7000 0.005
rvd_1_0_3_4 nd_1_0_3600_7000 nd_2_0_3600_7000 0.005
rvd_1_0_3_5 nd_1_0_4400_7000 nd_2_0_4400_7000 0.005
rvd_1_0_3_6 nd_1_0_5200_7000 nd_2_0_5200_7000 0.005
rvd_1_0_3_7 nd_1_0_6000_7000 nd_2_0_6000_7000 0.005
rvd_1_0_3_8 nd_1_0_6800_7000 nd_2_0_6800_7000 0.005
rvd_1_0_3_9 nd_1_0_7600_7000 nd_2_0_7600_7000 0.005
rvd_1_0_3_10 nd_1_0_8400_7000 nd_2_0_8400_7000 0.005
rvd_1_0_3_11 nd_1_0_9200_7000 nd_2_0_9200_7000 0.005
rvd_1_0_4_0 nd_1_0_399_9000 nd_2_0_399_9000 0.005
rvd_1_0_4_1 nd_1_0_1200_9000 nd_2_0_1200_9000 0.005
rvd_1_0_4_2 nd_1_0_2000_9000 nd_2_0_2000_9000 0.005
rvd_1_0_4_3 nd_1_0_2800_9000 nd_2_0_2800_9000 0.005
rvd_1_0_4_4 nd_1_0_3600_9000 nd_2_0_3600_9000 0.005
rvd_1_0_4_5 nd_1_0_4400_9000 nd_2_0_4400_9000 0.005
rvd_1_0_4_6 nd_1_0_5200_9000 nd_2_0_5200_9000 0.005
rvd_1_0_4_7 nd_1_0_6000_9000 nd_2_0_6000_9000 0.005
rvd_1_0_4_8 nd_1_0_6800_9000 nd_2_0_6800_9000 0.005
rvd_1_0_4_9 nd_1_0_7600_9000 nd_2_0_7600_9000 0.005
rvd_1_0_4_10 nd_1_0_8400_9000 nd_2_0_8400_9000 0.005
rvd_1_0_4_11 nd_1_0_9200_9000 nd_2_0_9200_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_399_1000 0 72.0255
rdesr_0_0_0_0 nd_1_0_399_1000 nd_1_0_399_1000_ci 72.0255
cd_0_0_0_0 nd_1_0_399_1000_ci 0 2.7768e-11
rdload_0_0_0_1 nd_1_0_1200_1000 0 97.9463
rdesr_0_0_0_1 nd_1_0_1200_1000 nd_1_0_1200_1000_ci 97.9463
cd_0_0_0_1 nd_1_0_1200_1000_ci 0 2.04194e-11
rdload_0_0_0_2 nd_1_0_2000_1000 0 64.0078
rdesr_0_0_0_2 nd_1_0_2000_1000 nd_1_0_2000_1000_ci 64.0078
cd_0_0_0_2 nd_1_0_2000_1000_ci 0 3.12462e-11
rdload_0_0_0_3 nd_1_0_2800_1000 0 82.7505
rdesr_0_0_0_3 nd_1_0_2800_1000 nd_1_0_2800_1000_ci 82.7505
cd_0_0_0_3 nd_1_0_2800_1000_ci 0 2.4169e-11
rdload_0_0_0_4 nd_1_0_3600_1000 0 47.5118
rdesr_0_0_0_4 nd_1_0_3600_1000 nd_1_0_3600_1000_ci 47.5118
cd_0_0_0_4 nd_1_0_3600_1000_ci 0 4.20948e-11
rdload_0_0_0_5 nd_1_0_4400_1000 0 57.0033
rdesr_0_0_0_5 nd_1_0_4400_1000 nd_1_0_4400_1000_ci 57.0033
cd_0_0_0_5 nd_1_0_4400_1000_ci 0 3.50857e-11
rdload_0_0_0_6 nd_1_0_5200_1000 0 95.9262
rdesr_0_0_0_6 nd_1_0_5200_1000 nd_1_0_5200_1000_ci 95.9262
cd_0_0_0_6 nd_1_0_5200_1000_ci 0 2.08494e-11
rdload_0_0_0_7 nd_1_0_6000_1000 0 51.5003
rdesr_0_0_0_7 nd_1_0_6000_1000 nd_1_0_6000_1000_ci 51.5003
cd_0_0_0_7 nd_1_0_6000_1000_ci 0 3.88347e-11
rdload_0_0_0_8 nd_1_0_6800_1000 0 636.76
rdesr_0_0_0_8 nd_1_0_6800_1000 nd_1_0_6800_1000_ci 636.76
cd_0_0_0_8 nd_1_0_6800_1000_ci 0 3.1409e-12
rdload_0_0_0_9 nd_1_0_7600_1000 0 140.638
rdesr_0_0_0_9 nd_1_0_7600_1000 nd_1_0_7600_1000_ci 140.638
cd_0_0_0_9 nd_1_0_7600_1000_ci 0 1.42209e-11
rdload_0_0_0_10 nd_1_0_8400_1000 0 277.914
rdesr_0_0_0_10 nd_1_0_8400_1000 nd_1_0_8400_1000_ci 277.914
cd_0_0_0_10 nd_1_0_8400_1000_ci 0 7.19647e-12
rdload_0_0_0_11 nd_1_0_9200_1000 0 16985.8
rdesr_0_0_0_11 nd_1_0_9200_1000 nd_1_0_9200_1000_ci 16985.8
cd_0_0_0_11 nd_1_0_9200_1000_ci 0 1.17746e-13
rdload_0_0_0_12 nd_1_0_399_3000 0 46.2143
rdesr_0_0_0_12 nd_1_0_399_3000 nd_1_0_399_3000_ci 46.2143
cd_0_0_0_12 nd_1_0_399_3000_ci 0 4.32766e-11
rdload_0_0_0_13 nd_1_0_1200_3000 0 69.0369
rdesr_0_0_0_13 nd_1_0_1200_3000 nd_1_0_1200_3000_ci 69.0369
cd_0_0_0_13 nd_1_0_1200_3000_ci 0 2.897e-11
rdload_0_0_0_14 nd_1_0_2000_3000 0 91.5919
rdesr_0_0_0_14 nd_1_0_2000_3000 nd_1_0_2000_3000_ci 91.5919
cd_0_0_0_14 nd_1_0_2000_3000_ci 0 2.1836e-11
rdload_0_0_0_15 nd_1_0_2800_3000 0 50.2378
rdesr_0_0_0_15 nd_1_0_2800_3000 nd_1_0_2800_3000_ci 50.2378
cd_0_0_0_15 nd_1_0_2800_3000_ci 0 3.98107e-11
rdload_0_0_0_16 nd_1_0_3600_3000 0 77.6238
rdesr_0_0_0_16 nd_1_0_3600_3000 nd_1_0_3600_3000_ci 77.6238
cd_0_0_0_16 nd_1_0_3600_3000_ci 0 2.57653e-11
rdload_0_0_0_17 nd_1_0_4400_3000 0 109.518
rdesr_0_0_0_17 nd_1_0_4400_3000 nd_1_0_4400_3000_ci 109.518
cd_0_0_0_17 nd_1_0_4400_3000_ci 0 1.82618e-11
rdload_0_0_0_18 nd_1_0_5200_3000 0 55.232
rdesr_0_0_0_18 nd_1_0_5200_3000 nd_1_0_5200_3000_ci 55.232
cd_0_0_0_18 nd_1_0_5200_3000_ci 0 3.62109e-11
rdload_0_0_0_19 nd_1_0_6000_3000 0 480.691
rdesr_0_0_0_19 nd_1_0_6000_3000 nd_1_0_6000_3000_ci 480.691
cd_0_0_0_19 nd_1_0_6000_3000_ci 0 4.16068e-12
rdload_0_0_0_20 nd_1_0_6800_3000 0 134.856
rdesr_0_0_0_20 nd_1_0_6800_3000 nd_1_0_6800_3000_ci 134.856
cd_0_0_0_20 nd_1_0_6800_3000_ci 0 1.48307e-11
rdload_0_0_0_21 nd_1_0_7600_3000 0 254.628
rdesr_0_0_0_21 nd_1_0_7600_3000 nd_1_0_7600_3000_ci 254.628
cd_0_0_0_21 nd_1_0_7600_3000_ci 0 7.85461e-12
rdload_0_0_0_22 nd_1_0_8400_3000 0 2453.17
rdesr_0_0_0_22 nd_1_0_8400_3000 nd_1_0_8400_3000_ci 2453.17
cd_0_0_0_22 nd_1_0_8400_3000_ci 0 8.15273e-13
rdload_0_0_0_23 nd_1_0_9200_3000 0 104.619
rdesr_0_0_0_23 nd_1_0_9200_3000 nd_1_0_9200_3000_ci 104.619
cd_0_0_0_23 nd_1_0_9200_3000_ci 0 1.9117e-11
rdload_0_0_0_24 nd_1_0_399_5000 0 67.406
rdesr_0_0_0_24 nd_1_0_399_5000 nd_1_0_399_5000_ci 67.406
cd_0_0_0_24 nd_1_0_399_5000_ci 0 2.96709e-11
rdload_0_0_0_25 nd_1_0_1200_5000 0 41.7708
rdesr_0_0_0_25 nd_1_0_1200_5000 nd_1_0_1200_5000_ci 41.7708
cd_0_0_0_25 nd_1_0_1200_5000_ci 0 4.78804e-11
rdload_0_0_0_26 nd_1_0_2000_5000 0 48.9359
rdesr_0_0_0_26 nd_1_0_2000_5000 nd_1_0_2000_5000_ci 48.9359
cd_0_0_0_26 nd_1_0_2000_5000_ci 0 4.08698e-11
rdload_0_0_0_27 nd_1_0_2800_5000 0 237.976
rdesr_0_0_0_27 nd_1_0_2800_5000 nd_1_0_2800_5000_ci 237.976
cd_0_0_0_27 nd_1_0_2800_5000_ci 0 8.40421e-12
rdload_0_0_0_28 nd_1_0_3600_5000 0 44.9978
rdesr_0_0_0_28 nd_1_0_3600_5000 nd_1_0_3600_5000_ci 44.9978
cd_0_0_0_28 nd_1_0_3600_5000_ci 0 4.44466e-11
rdload_0_0_0_29 nd_1_0_4400_5000 0 161.659
rdesr_0_0_0_29 nd_1_0_4400_5000 nd_1_0_4400_5000_ci 161.659
cd_0_0_0_29 nd_1_0_4400_5000_ci 0 1.23717e-11
rdload_0_0_0_30 nd_1_0_5200_5000 0 66.6436
rdesr_0_0_0_30 nd_1_0_5200_5000 nd_1_0_5200_5000_ci 66.6436
cd_0_0_0_30 nd_1_0_5200_5000_ci 0 3.00104e-11
rdload_0_0_0_31 nd_1_0_6000_5000 0 41.5153
rdesr_0_0_0_31 nd_1_0_6000_5000 nd_1_0_6000_5000_ci 41.5153
cd_0_0_0_31 nd_1_0_6000_5000_ci 0 4.8175e-11
rdload_0_0_0_32 nd_1_0_6800_5000 0 222.884
rdesr_0_0_0_32 nd_1_0_6800_5000 nd_1_0_6800_5000_ci 222.884
cd_0_0_0_32 nd_1_0_6800_5000_ci 0 8.97327e-12
rdload_0_0_0_33 nd_1_0_7600_5000 0 1130.41
rdesr_0_0_0_33 nd_1_0_7600_5000 nd_1_0_7600_5000_ci 1130.41
cd_0_0_0_33 nd_1_0_7600_5000_ci 0 1.76927e-12
rdload_0_0_0_34 nd_1_0_8400_5000 0 44.5293
rdesr_0_0_0_34 nd_1_0_8400_5000 nd_1_0_8400_5000_ci 44.5293
cd_0_0_0_34 nd_1_0_8400_5000_ci 0 4.49142e-11
rdload_0_0_0_35 nd_1_0_9200_5000 0 158.422
rdesr_0_0_0_35 nd_1_0_9200_5000 nd_1_0_9200_5000_ci 158.422
cd_0_0_0_35 nd_1_0_9200_5000_ci 0 1.26245e-11
rdload_0_0_0_36 nd_1_0_399_7000 0 84.6007
rdesr_0_0_0_36 nd_1_0_399_7000 nd_1_0_399_7000_ci 84.6007
cd_0_0_0_36 nd_1_0_399_7000_ci 0 2.36405e-11
rdload_0_0_0_37 nd_1_0_1200_7000 0 48.4825
rdesr_0_0_0_37 nd_1_0_1200_7000 nd_1_0_1200_7000_ci 48.4825
cd_0_0_0_37 nd_1_0_1200_7000_ci 0 4.1252e-11
rdload_0_0_0_38 nd_1_0_2000_7000 0 214.791
rdesr_0_0_0_38 nd_1_0_2000_7000 nd_1_0_2000_7000_ci 214.791
cd_0_0_0_38 nd_1_0_2000_7000_ci 0 9.31136e-12
rdload_0_0_0_39 nd_1_0_2800_7000 0 867.557
rdesr_0_0_0_39 nd_1_0_2800_7000 nd_1_0_2800_7000_ci 867.557
cd_0_0_0_39 nd_1_0_2800_7000_ci 0 2.30533e-12
rdload_0_0_0_40 nd_1_0_3600_7000 0 151.889
rdesr_0_0_0_40 nd_1_0_3600_7000 nd_1_0_3600_7000_ci 151.889
cd_0_0_0_40 nd_1_0_3600_7000_ci 0 1.31675e-11
rdload_0_0_0_41 nd_1_0_4400_7000 0 64.0157
rdesr_0_0_0_41 nd_1_0_4400_7000 nd_1_0_4400_7000_ci 64.0157
cd_0_0_0_41 nd_1_0_4400_7000_ci 0 3.12423e-11
rdload_0_0_0_42 nd_1_0_5200_7000 0 40.8146
rdesr_0_0_0_42 nd_1_0_5200_7000 nd_1_0_5200_7000_ci 40.8146
cd_0_0_0_42 nd_1_0_5200_7000_ci 0 4.9002e-11
rdload_0_0_0_43 nd_1_0_6000_7000 0 207.07
rdesr_0_0_0_43 nd_1_0_6000_7000 nd_1_0_6000_7000_ci 207.07
cd_0_0_0_43 nd_1_0_6000_7000_ci 0 9.65857e-12
rdload_0_0_0_44 nd_1_0_6800_7000 0 727.697
rdesr_0_0_0_44 nd_1_0_6800_7000 nd_1_0_6800_7000_ci 727.697
cd_0_0_0_44 nd_1_0_6800_7000_ci 0 2.7484e-12
rdload_0_0_0_45 nd_1_0_7600_7000 0 43.8836
rdesr_0_0_0_45 nd_1_0_7600_7000 nd_1_0_7600_7000_ci 43.8836
cd_0_0_0_45 nd_1_0_7600_7000_ci 0 4.55751e-11
rdload_0_0_0_46 nd_1_0_8400_7000 0 51.7713
rdesr_0_0_0_46 nd_1_0_8400_7000 nd_1_0_8400_7000_ci 51.7713
cd_0_0_0_46 nd_1_0_8400_7000_ci 0 3.86315e-11
rdload_0_0_0_47 nd_1_0_9200_7000 0 82.6034
rdesr_0_0_0_47 nd_1_0_9200_7000 nd_1_0_9200_7000_ci 82.6034
cd_0_0_0_47 nd_1_0_9200_7000_ci 0 2.42121e-11
rdload_0_0_0_48 nd_1_0_399_9000 0 47.0442
rdesr_0_0_0_48 nd_1_0_399_9000 nd_1_0_399_9000_ci 47.0442
cd_0_0_0_48 nd_1_0_399_9000_ci 0 4.25132e-11
rdload_0_0_0_49 nd_1_0_1200_9000 0 56.8152
rdesr_0_0_0_49 nd_1_0_1200_9000 nd_1_0_1200_9000_ci 56.8152
cd_0_0_0_49 nd_1_0_1200_9000_ci 0 3.52019e-11
rdload_0_0_0_50 nd_1_0_2000_9000 0 71.1392
rdesr_0_0_0_50 nd_1_0_2000_9000 nd_1_0_2000_9000_ci 71.1392
cd_0_0_0_50 nd_1_0_2000_9000_ci 0 2.81139e-11
rdload_0_0_0_51 nd_1_0_2800_9000 0 141.519
rdesr_0_0_0_51 nd_1_0_2800_9000 nd_1_0_2800_9000_ci 141.519
cd_0_0_0_51 nd_1_0_2800_9000_ci 0 1.41324e-11
rdload_0_0_0_52 nd_1_0_3600_9000 0 62.7173
rdesr_0_0_0_52 nd_1_0_3600_9000 nd_1_0_3600_9000_ci 62.7173
cd_0_0_0_52 nd_1_0_3600_9000_ci 0 3.18891e-11
rdload_0_0_0_53 nd_1_0_4400_9000 0 80.2492
rdesr_0_0_0_53 nd_1_0_4400_9000 nd_1_0_4400_9000_ci 80.2492
cd_0_0_0_53 nd_1_0_4400_9000_ci 0 2.49224e-11
rdload_0_0_0_54 nd_1_0_5200_9000 0 46.6457
rdesr_0_0_0_54 nd_1_0_5200_9000 nd_1_0_5200_9000_ci 46.6457
cd_0_0_0_54 nd_1_0_5200_9000_ci 0 4.28764e-11
rdload_0_0_0_55 nd_1_0_6000_9000 0 573.441
rdesr_0_0_0_55 nd_1_0_6000_9000 nd_1_0_6000_9000_ci 573.441
cd_0_0_0_55 nd_1_0_6000_9000_ci 0 3.48772e-12
rdload_0_0_0_56 nd_1_0_6800_9000 0 93.0788
rdesr_0_0_0_56 nd_1_0_6800_9000 nd_1_0_6800_9000_ci 93.0788
cd_0_0_0_56 nd_1_0_6800_9000_ci 0 2.14872e-11
rdload_0_0_0_57 nd_1_0_7600_9000 0 50.8475
rdesr_0_0_0_57 nd_1_0_7600_9000 nd_1_0_7600_9000_ci 50.8475
cd_0_0_0_57 nd_1_0_7600_9000_ci 0 3.93333e-11
rdload_0_0_0_58 nd_1_0_8400_9000 0 268.587
rdesr_0_0_0_58 nd_1_0_8400_9000 nd_1_0_8400_9000_ci 268.587
cd_0_0_0_58 nd_1_0_8400_9000_ci 0 7.44637e-12
rdload_0_0_0_59 nd_1_0_9200_9000 0 46.3304
rdesr_0_0_0_59 nd_1_0_9200_9000 nd_1_0_9200_9000_ci 46.3304
cd_0_0_0_59 nd_1_0_9200_9000_ci 0 4.31682e-11

*-- intentional decap
cd_add_cap0 nd_1_0_1200_3000 nd0 'dcap_int_val132'
cd_add_cap1 nd_1_0_2800_3000 nd1 'dcap_int_val133'
cd_add_cap2 nd_1_0_4400_3000 nd2 'dcap_int_val134'
cd_add_cap3 nd_1_0_6000_3000 nd3 'dcap_int_val135'
cd_add_cap4 nd_1_0_8400_3000 nd4 'dcap_int_val136'
cd_add_cap5 nd_1_0_1200_7000 nd5 'dcap_int_val137'
cd_add_cap6 nd_1_0_2800_7000 nd6 'dcap_int_val138'
cd_add_cap7 nd_1_0_4400_7000 nd7 'dcap_int_val139'
cd_add_cap8 nd_1_0_6000_7000 nd8 'dcap_int_val140'
cd_add_cap9 nd_1_0_8400_7000 nd9 'dcap_int_val141'
rd_add0 nd0 0 'esr13'
rd_add1 nd1 0 'esr14'
rd_add2 nd2 0 'esr15'
rd_add3 nd3 0 'esr16'
rd_add4 nd4 0 'esr17'
rd_add5 nd5 0 'esr18'
rd_add6 nd6 0 'esr19'
rd_add7 nd7 0 'esr20'
rd_add8 nd8 0 'esr21'
rd_add9 nd9 0 'esr22'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_6_1 nd_pad_port_6_1 nd_pad_6_1 ubump_subckt
xd_pad_6_3 nd_pad_port_6_3 nd_pad_6_3 ubump_subckt
xd_pad_7_0 nd_pad_port_7_0 nd_pad_7_0 ubump_subckt
xd_pad_7_2 nd_pad_port_7_2 nd_pad_7_2 ubump_subckt
xd_pad_8_1 nd_pad_port_8_1 nd_pad_8_1 ubump_subckt
xd_pad_8_3 nd_pad_port_8_3 nd_pad_8_3 ubump_subckt
xd_pad_9_0 nd_pad_port_9_0 nd_pad_9_0 ubump_subckt
xd_pad_9_2 nd_pad_port_9_2 nd_pad_9_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1200_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1200_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_2000_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_2000_5000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_2800_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_2800_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_3600_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_3600_5000  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_4400_3000  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_4400_7000  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_5200_1000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_5200_5000  0.001
rd_pad2via_6_1 nd_pad_6_1 nd_2_0_6000_3000  0.001
rd_pad2via_6_3 nd_pad_6_3 nd_2_0_6000_7000  0.001
rd_pad2via_7_0 nd_pad_7_0 nd_2_0_7600_1000  0.001
rd_pad2via_7_2 nd_pad_7_2 nd_2_0_7600_5000  0.001
rd_pad2via_8_1 nd_pad_8_1 nd_2_0_8400_3000  0.001
rd_pad2via_8_3 nd_pad_8_3 nd_2_0_8400_7000  0.001
rd_pad2via_9_0 nd_pad_9_0 nd_2_0_9200_1000  0.001
rd_pad2via_9_2 nd_pad_9_2 nd_2_0_9200_5000  0.001

.ends chiplet3
